US05883093
Step 3: N-(carbobenzyloxy)-4-[3-[(tert-butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoroaniline
4-[3-[(tert-Butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoronitrobenzene (1.00 g, 3.07 mmol) was combined with 10% palladium on carbon (0.100 g) in 3:1 tetrahydrofuran/water (25 mL) under a nitrogen atmosphere. The atmosphere was replaced with hydrogen (balloon) by repeated evacuation and filling. After 2 h the initial yellow color of the reaction solution disappeared and TLC analysis (15% ethyl acetate/hexane) revealed the reduction to be complete. The reaction mixture was filtered through Celite® and the filtrate immediately placed under a nitrogen atmosphere and treated with sodium bicarbonate (1.41 g, 16.8 mmol) and benzyl chloroformate (0.528 mL, 3.69 mmol). After 30 min at ambient temperature, TLC analysis (15% ethyl acetate/hexane) indicated the reaction was complete. The reaction mixture was concentrated under reduced pressure to an off-white solid. Cromatography over silica gel (125 g), eluting with a gradient of 5-30% ethyl acetate/hexane, afforded, after concentration of appropriate fractions, 0.565 g (43%) of the title compound as a white solid with mp 91°-93° C. and MS(EI) 430 (M+).

reactant | 4-[3-[(tert-Butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoronitrobenzene | 3.07 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)OC1CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C15H23FN2O3Si
reactant | hydrogen | [H][H] | H2
reactant | sodium bicarbonate | 16.8 mmol, 1.41 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 3.69 mmol, 0.528 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran water | 25 mL | O1CCCC1.O
product | N-(carbobenzyloxy)-4-[3-[(tert-butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoroaniline | 0.565 g, 43% | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C=C1)N1CC(C1)O[Si](C)(C)C(C)(C)C)F | C23H31FN2O3Si
